### PR TITLE
Replace `fun_scope` with `function_scope`

### LINKED ISSUE #1130: `fun_scope` and `function_scope`
MathComp uses [`fun_scope`](https://github.com/coq/coq/blob/1788628756921f2b3684023ec7f0628a53ac0b26/theories/ssr/ssrfun.v#L390) as the notation scope for functions. However, the Coq standard library declares [`function_scope`](https://github.com/coq/coq/blob/1788628756921f2b3684023ec7f0628a53ac0b26/theories/Init/Notations.v#L122) for the same purpose, as I noticed in #978.

Since there is no declaration `Bind Scope fun_scope with Funclass.` in MathComp, the use of `fun_scope` and `function_scope` are actually mixed in MathComp, e.g.,
```coq
About seq.map.
```
```
map : forall {T1 T2 : Type}, (T1 -> T2) -> seq T1 -> seq T2

map is not universe polymorphic
Arguments map {T1 T2}%type_scope f%function_scope s%seq_scope
                                  ^^^^^^^^^^^^^^^
map is transparent
Expands to: Constant mathcomp.ssreflect.seq.map
```

The best solution would be to unify these two notation scopes. However, I'm unsure if we can provide reasonable transition/deprecation steps since `Notation fun_scope := function_scope.` does not work. Shouldn't we at least declare `Bind Scope fun_scope with Funclass.` in `ssrfun.v`?

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Fix #1130.

Overlays:
- coq-community/coqeal#85
- math-comp/analysis#1111

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [x] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

**Comment by pi8027** [comment]
This is unrelated to the PR itself, but I see the issue with `native_compute` and multinomials in CI again. Do we need to remove the combination of coq-8.16 and multinomials-dev from CI? Or will merging coq/opam#2850 fix the issue? @proux01

**Comment by proux01** [comment]
Fixing OPAM packages won't fix the Nix CI. I guess Coq 8.16 in Nix is using too old a version of dune, let me fix the CI in a separate PR.

File: mathcomp/ssreflect/prime.v [hunk 1]
```diff
@@ -1050,7 +1050,7 @@ Lemma negnK pi : pi^'^' =i pi.
 Proof. by move=> p; apply: negbK. Qed.
 
 Lemma eq_negn pi1 pi2 : pi1 =i pi2 -> pi1^' =i pi2^'.
-Proof. by move=> eq_pi n; rewrite inE eq_pi. Qed.
+Proof. by move=> eq_pi n; rewrite !inE eq_pi. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/prime.v:1053]: By `rewrite inE`, we actually perform `rewrite in_simpl` here. The result of this rewriting has changed from
```coq
(n \notin pi1) = (n \in pi2^')
```
to
```coq
~~ mem pi1 n = (n \in pi2^')
```
but I have no explanation yet.

Comment (pi8027) [reply mathcomp/ssreflect/prime.v]: Fixed. I accidentally changed the definition of `[predC _]` and then `negn` above. It somehow broke the canonical structure inference here.

**Comment by pi8027** [comment]
Done except for CHANGELOG and overlays

File: mathcomp/ssreflect/ssrfun.v [hunk 2]
```diff
@@ -87,3 +85,43 @@ Proof. by move=> Ef [?|] //=; rewrite Ef. Qed.
...
+  (only parsing) : function_scope.
+Notation "[ 'fun' x ( y : T ) => E ]" := (fun x => [fun y : T => E])
+  (only parsing) : function_scope.
+Notation "[ 'fun' ( x : T ) ( y : U ) => E ]" := (fun x : T => [fun y : U => E])
+  (only parsing) : function_scope.
+
+Notation "f1 =1 f2" := (eqfun f1 f2) : type_scope.
+Notation "f1 =1 f2 :> A" := (f1 =1 (f2 : A)) : type_scope.
+Notation "f1 =2 f2" := (eqrel f1 f2) : type_scope.
+Notation "f1 =2 f2 :> A" := (f1 =2 (f2 : A)) : type_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/ssrfun.v:115]: Remark: they were defined in `fun_scope` but should be defined in `type_scope`.

**Comment by proux01** [comment]
> I guess Coq 8.16 in Nix is using too old a version of dune, let me fix the CI in a separate PR.

Done: https://github.com/math-comp/math-comp/pull/1132

**Comment by pi8027** [comment]
@proux01 Thanks!

I will take a look at analysis and coqeal.

**Comment by pi8027** [comment]
I probably don't understand how to do the overlay stuff in Nix CI correctly.

**Comment by proux01** [comment]
> I probably don't understand how to do the overlay stuff in Nix CI correctly.

No, it looks good to me. I usually write `login:branch` rather than `#PR`, enabling to test before opening the PR, but both work.

**Comment by pi8027** [comment]
I will do the backport to Coq and open another PR closing `fun_scope`.
